US04535171
8-Methylthiodibenzo[b,f]thiepin-3-carboxaldehyde-5-oxide
Dissolve 8-methylthiodibenzo[b,f]thiepin-3-carboxaldehyde (5 mmole) in methylene chloride (100 ml); and while cooling the solution in an ice-bath, add a 1M solution of 90% nitric acid in methylene chloride (5 ml). Monitor the reaction mixture by tlc after 30 minutes, and add the nitric acid solution in small increments until starting material has disappeared. Treat the reaction mixture with sodium bicarbonate solution to remove acidic substances. Dry the organic solution, evaporate to dryness, and purify the title product by column chromatography on silica gel using 1:4 ethyl acetate/toluene for elution.

reactant | 8-methylthiodibenzo[b,f]thiepin-3-carboxaldehyde | 5 mmole | CSC=1C=CC2=C(C=CC3=C(S2)C=C(C=C3)C=O)C1 | C16H12OS2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 8-Methylthiodibenzo[b,f]thiepin-3-carboxaldehyde-5-oxide | CSC=1C=CC2=C(C=CC3=C(S2=O)C=C(C=C3)C=O)C1 | C16H12O2S2
